US04198419
A solution of 6.8 g of 4-acetyl-1-methyl-4-(2-phenylthiophenyl)piperidine oxalate, Example 6, in 40 ml of chloroform is added dropwise to a rapidly stirring mixture of 14.7 g of potassium carbonate and 3.7 g of cyanogen bromide in 48.5 ml of chloroform. After total addition, the reaction mixture is successively stirred at reflux for 16 hours, filtered, washed five times with 100 ml portions of water, washed with one 50 ml portion of a saturated sodium chloride solution and dried. The resulting product is purified by chromatography (silica gel column, ether eluant) to provide 4-acetyl-1-cyano-4-(2-phenylthiophenyl)piperidine.

reactant | 4-acetyl-1-methyl-4-(2-phenylthiophenyl)piperidine oxalate | 6.8 g | C(C(=O)O)(=O)O.C(C)(=O)C1(CCN(CC1)C)C1=C(C=CC=C1)SC1=CC=CC=C1
reactant | potassium carbonate | 14.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyanogen bromide | 3.7 g | N#CBr | CBrN
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 48.5 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-acetyl-1-cyano-4-(2-phenylthiophenyl)piperidine | C(C)(=O)C1(CCN(CC1)C#N)C1=C(C=CC=C1)SC1=CC=CC=C1 | C20H20N2OS
